US05580986
1-(3-Chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-5-diethylamino-4-pyrazolecarbonitrile
10.45 g (0.35 mol) Sodium hydride (80%) was added to 100 ml tetrahydrofuran and cooled to 0° C. In a nitrogen atmosphere, a suspension of 43.6 g (0.17 mol) 5-amino-1-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-pyrazolecarbonitrile in 500 ml tetrahydrofuran was added dropwise. The mixture was stirred for 1.5 hours. Then 31.4 ml (0.38 mol) iodoethane in 20 ml tetrahydrofuran was added dropwise at 15° C. After stirring for three hours at 15° C., the mixture was cooled. Water was then added dropwise and the mixture extracted with ethyl acetate. The organic phase was separated, dried and concentrated. The residue was recrystallised from ethyl acetate.

reactant | Sodium hydride | 0.35 mol, 10.45 g | [H-].[Na+]
reactant | 5-amino-1-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-pyrazolecarbonitrile | 0.17 mol, 43.6 g | NC1=C(C=NN1C1=NN2C(CCCC2)=C1Cl)C#N | C11H11ClN6
reactant | iodoethane | 0.38 mol, 31.4 ml | ICC | C2H5I
reactant | Water | O | H2O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(3-Chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-5-diethylamino-4-pyrazolecarbonitrile | ClC=1C(=NN2C1CCCC2)N2N=CC(=C2N(CC)CC)C#N | C15H19ClN6
